US05500427
a) Ethyl 2-propylaminoquinoline-3-carboxylate
An solution of ethyl 2-chloroquinoline-3-carboxylate (1.1 g) [(K. Shimizu et al., J. Pharm. Soc. Jpn., 87, 672(1967)] and propylamine (1.8 g) in ethanol (20 ml) was heated at 95° C. for 8 hours in a sealed tube. The reaction mixture was concentrated under reduced pressure, to which was added a saturated aqueous solution of sodium hydrogencarbonate, followed by extraction with chloroform. The extract was dried over anhydrous sodium sulfate, then the solvent was distilled off. The residue was purified by column chromatography on silica gel to afford the title compound as a yellow oil (0.98 g, 80%).

reactant | ethyl 2-chloroquinoline-3-carboxylate | 1.1 g | ClC1=NC2=CC=CC=C2C=C1C(=O)OCC | C12H10ClNO2
reactant | propylamine | 1.8 g | C(CC)N | C3H9N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Ethyl 2-propylaminoquinoline-3-carboxylate | 0.98 g, 80% | C(CC)NC1=NC2=CC=CC=C2C=C1C(=O)OCC | C15H18N2O2
